US09371280B2
To a suspension of chiral 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (150 mg, 0.243 mmol) in methylene chloride (8 mL) was added triethylamine (72.0 mg, 0.10 mL, 0.717 mmol) followed by bis(2-oxo-3-oxazolidinyl)phosphinic chloride (Aldrich, 92 mg, 0.365 mmol). The mixture was stirred at room temperature for 10 min before 2,2′-oxydiethanol (Aldrich, 154 mg, 0.14 mL, 1.45 mmol) was added. This reaction mixture was stirred at room temperature overnight. It was then diluted with methylene chloride and washed with water, brine and concentrated to dryness. The crude material was purified by flash chromatography (eluting with hexane/ethyl acetate, 80/20 to 10/90) to give chiral 2-(2-hydroxyethoxy)ethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate as a white solid (40.8 mg, 23% yield). MS (ES+) m/z calcd. for C35H38Cl2F2N3O6 [(M+H)+]: 704. found: 704.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | 0.243 mmol, 150 mg | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | triethylamine | 0.717 mmol, 0.10 mL, 72.0 mg | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.365 mmol, 92 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | 2,2′-oxydiethanol | 1.45 mmol, 0.14 mL, 154 mg | O(CCO)CCO | C4H10O3
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-hydroxyethoxy)ethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate | 40.8 mg, 23% yield | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)OCCOCCO)C=C1)OC)F | C35H37Cl2F2N3O6
